US04363909
By following the procedure of Example 2, but using (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (18.2 g) and 2-amino-5-tert.-butyl-1,3,4-thiadiazole (15.7 g) as the starting materials, (S)-3-[(5-tert.-butyl-1,3,4-thiadiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (7.0 g) is obtained in the form of white crystals, m.p.=137° C.

reactant | (S)-3-methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 18.2 g | [I-].CSC=1SC[C@H]2[N+]1CC=1C=CC=CC1C2
reactant | 2-amino-5-tert.-butyl-1,3,4-thiadiazole | 15.7 g | NC=1SC(=NN1)C(C)(C)C | C6H11N3S
product | (S)-3-[(5-tert.-butyl-1,3,4-thiadiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 7.0 g | C(C)(C)(C)C1=NN=C(S1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C17H20N4S2
